US05017579
To a solution of 2.8 g (0.0085 mol) of 1-methyl-2-isopropyl-3-(4-hydroxy-benzenesulphonyl)indole in 100 ml of N,N-dimethyl formamide were added 14 g of anhydrous and crushed potassium carbonate. After that 6.8 g (0.037 mol) of 1,3-dibromopropane were added and the medium was heated at 100° C. for 0.5 hour. The mixture was poured into water, extracted with ethyl ether and the ethereal fraction was washed with water, dried on anhydrous sodium sulphate, filtered and evaporated to obtain 2.7 g of 1-methyl-3-[4-(3-bromo-propoxy)benzenesulphonyl]-2-isopropyl-indole (yield: 69%). This crude bromopropoxy derivative was dissolved in 60 ml of dimethylsulphoxide and 2.2 g (0.03 mol) of tert-butylamine were added. The medium was then stirred at room-temperature for 48 hours, poured into water and extracted with ethyl ether. The ethereal solution was then washed with water, dried on anhydrous sodium sulphate, filtered and evaporated. The crude product so obtained (2.3 g) was then purified by chromatography on a silica column (solvent:methanol).

reactant | 1-methyl-2-isopropyl-3-(4-hydroxy-benzenesulphonyl)indole | 0.0085 mol, 2.8 g | CN1C(=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)O)C(C)C | C18H19NO3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 0.037 mol, 6.8 g | BrCCCBr | C3H6Br2
reactant | water | O | H2O
solvent | N,N-dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-methyl-3-[4-(3-bromo-propoxy)benzenesulphonyl]-2-isopropyl-indole | 2.7 g, yield: 69% | CN1C(=C(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OCCCBr)C(C)C | C21H24BrNO3S
